US09422271B2
A mixture of N-(3-(thiophen-2-ylthio)propyl)acetamide (2.5 g, 11.6 mmol, 1.0 eq), NBS (2.1 g, 11.6 mmol, 1.0 eq) in DMF (5 mL) was stirred at 23° C. for 1 hour. The mixture was extracted with CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and concentrated to give yellow oil N-(3-(5-bromothiophen-2-ylthio)propyl)acetamide (1.6 g, 46.8%);

reactant | N-(3-(thiophen-2-ylthio)propyl)acetamide | 11.6 mmol, 2.5 g, 1.0 eq | S1C(=CC=C1)SCCCNC(C)=O | C9H13NOS2
reactant | NBS | 11.6 mmol, 2.1 g, 1.0 eq | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-(3-(5-bromothiophen-2-ylthio)propyl)acetamide | 1.6 g, 46.8% | BrC1=CC=C(S1)SCCCNC(C)=O | C9H12BrNOS2
